US09422312B2
Step 2: N′-(2-Chloropyrimidin-5-yl)-N,N-dimethyl-methanesulfonimidamide
The title compound is prepared from N-(2-chloropyrimidin-5-yl)methanesulfinamide and dimethylamine following a procedure analogous to that described for Intermediate 3 (Step 2). LC (method 1): tR=0.72 min; Mass spectrum (ESI+): m/z=235 [M+H]+.

reactant | N-(2-chloropyrimidin-5-yl)methanesulfinamide | ClC1=NC=C(C=N1)NS(=O)C | C5H6ClN3OS
reactant | dimethylamine | CNC | C2H7N
product | N′-(2-Chloropyrimidin-5-yl)-N,N-dimethyl-methanesulfonimidamide | ClC1=NC=C(C=N1)N=S(=O)(N(C)C)C | C7H11ClN4OS
